US05346912
5.95 g (70.0 mmol) of cyanoacetic acid and 14.44 g (70.0 mmol) of dicyclohexylcarbodiimide were added to a stirred solution of 9.00 g (70.0 mmol) of 5-amino-2-chloropyridine in 150 ml of anhydrous tetrahydrofuran at 0° C. The reaction was monitored by thin layer chromatography and when complete, the reaction mixture was filtered and the filtrate was evaporated to dryness. The resulting solid was triturated with anhydrous dichloromethane, filtered and dried in vacuo to obtain 10.5 g of N-(2-chloropyrid-5-yl)-2-cyanoacetamide (77% yield).

reactant | cyanoacetic acid | 70.0 mmol, 5.95 g | C(#N)CC(=O)O | C3H3NO2
reactant | dicyclohexylcarbodiimide | 70.0 mmol, 14.44 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 5-amino-2-chloropyridine | 70.0 mmol, 9.00 g | NC=1C=CC(=NC1)Cl | C5H5ClN2
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | N-(2-chloropyrid-5-yl)-2-cyanoacetamide | 10.5 g, 77% yield | ClC1=NC=C(C=C1)NC(CC#N)=O | C8H6ClN3O
